US04937367
To a solution of disodium (1S,2S)-2-hydroxy-1-methanesulphonyloxypropyl phosphonate (2.78 g) in water (10 ml) an aqueous solution 1N of sodium hydroxide (10 ml, 10 mmol) was added at 15° C. The reaction mixture was kept at 15° C. for 2 hours. Evaporation of the solvent affords disodium (1R,2S)-1,2-epoxypropyl phosphonate.

reactant | disodium (1S,2S)-2-hydroxy-1-methanesulphonyloxypropyl phosphonate | 2.78 g | P(O[C@H]([C@H](C)O)OS(=O)(=O)C)([O-])=O.[Na+].[Na+].O[C@H]([C@H](OS(=O)(=O)C)OP([O-])=O)C
reactant | sodium hydroxide | 10 mmol, 1N, 10 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | disodium (1R,2S)-1,2-epoxypropyl phosphonate | P(O[C@@H]1[C@H](C)O1)([O-])=O.[Na+].[Na+].O1[C@@H]([C@@H]1C)OP([O-])=O | InChI=1S/2C3H7O4P.2Na/c2*1-2-3(6-2)7-8(4)5;;/h2*2-3,8H,1H3,(H,4,5);;/q;;2*+1/p-2/t2*2-,3+;;/m00../s1
